2141-03-25 08:10:00 Physician Resident Progress Note
Chief Complaint: 61 yo F with chron's a/w anemia and melena
   24 Hour Events:
 COLONOSCOPY - At [**2141-3-24**] 05:01 PM
   - s/p colonscopy.  GI wanted to send CMV and mycobacteria of stool.
   - started on cipro/flagyl and methotrexate per GI
   - cont to be hypertensive of SBP>180s.  Increased hydralazine to 30 mg
   IV Q6H, with PRN labetaolol 10 mg IV x 1 as needed.  SBP ranged 150-190
   - Colonscopy with ulcers c/w chron's.  no active sites of bleeding
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Remicade (Intraven.) (Infliximab)
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-3-24**] 06:16 PM
   Metronidazole - [**2141-3-25**] 12:49 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-3-24**] 10:00 AM
   Midazolam (Versed) - [**2141-3-24**] 04:36 PM
   Fentanyl - [**2141-3-24**] 04:36 PM
   Hydralazine - [**2141-3-25**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-25**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 81 (70 - 120) bpm
   BP: 189/71(99) {122/61(75) - 197/96(116)} mmHg
   RR: 11 (7 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,107 mL
                                                                    800 mL
   PO:
                                                                  4,000 mL
             TF:
   IVF:
                                                                    527 mL
                                                                    278 mL
   Blood products:
                                                                    395 mL
   Total out:
                                                                  4,330 mL
                                                                    550 mL
   Urine:
                                                                  1,730 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,777 mL
                                                                    250 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   88 K/uL
   13.0 g/dL
   206 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.8 mEq/L
   45 mg/dL
   109 mEq/L
   139 mEq/L
   35.8 %
   11.7 K/uL
        [image002.jpg]
                             [**2141-3-24**]  03:00 AM
                             [**2141-3-24**]  09:46 AM
                             [**2141-3-24**]  04:40 PM
                             [**2141-3-25**]  01:06 AM
                             [**2141-3-25**]  04:44 AM
   WBC
   14.1
   11.7
   Hct
   38.0
   42.9
   39.4
   37.3
   35.8
   Plt
   90
   88
   Cr
   0.9
   0.6
   Glucose
   207
   206
   Other labs: PT / PTT / INR:11.1/25.3/0.9, ALT / AST:36/26, Alk Phos / T
   Bili:35/0.3, Amylase / Lipase:95/136, Albumin:2.1 g/dL, LDH:466 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   61F w/ ongoing Crohn's flare refractory to steroids, undergoing Humira
   induction, with RUE DVT and persistent bloody diarrhea draining through
   rectovaginal fistula, EGD/[**Last Name (un) **] w/ TI disease w/o source of GIB,
   bleeding scan pos at ileo-cecal area but angio procedure negative with
   repeat c-scope which did not show any active sites of bleeding
   # Acute blood loss anemiaCrohn's disease wtih intermittant
   melena/hematochezia.  EGD/[**Last Name (un) **] unrevealing, tagged red scan positive
   for bleed at ileo-cecal junction but angiogram negative for active
   bleed.
   - repeated c-scope on [**3-24**] without any active source of bleeding
   found.  no melena since procedure.  Gi recommended sending the stools
   for mycobacteria as that can cause diarrhea/melena
   - Q6 HCT drawn; slowly trending down still.  Patient is still
   hemodynamically stable, actually is hypertensive despite slow HCT drop
   - cont Q6 HCT check for now; d/w GI whether any other studies
   necessary; seems to be a fairly slow bleed.  may need capsule study to
   evaluate for small bowel AVMs or other source of bleeding
   - Will transfuse to a goal of >28 or HD instability
   # Crohn's disease: Patient is currently on Solumedrol 20 IV Q8H
   - not getting any PO meds right now; may consider restarting POs today-
   since likely no other imaging studies right now.
   - given a dose of MTX yesterday per GI.  Also recently started on
   Humira- got 2 doses.
   - Continue TPN given short gut
   # DVT: Patient found to have RUE clot at the site of her prior PICC
   line. Unable to anticoagulate patient at this time given her active GI
   bleed.
   - Heat packs to site, elevation of arm
   - Continue to monitor
   - Will discuss anticoagulation after resolution of bleed, though this
   will likely be an ongoing problem for the patient given her severe IBD.
   # Hypothyroidism: Patient is on levothyroxine 112mcg daily as an
   outpatient.
   - on IV levothyroxine until able to take POs.  will change once
   tolerating POs
   # Hypertension: On Moexipril and Atenolol as outpatient. Will hold
   anti-hypertensives for now in the setting of large GI bleed. Continues
   to be very hypertensive
   - titrated up on Hydral to 30 mg IV Q6H with prn labetaolol IV
   - will restart PO medications this AM- atenolol and moexipril
   # Osteoporosis: On Alendronate q Sunday and vitamin D/Calcium
   supplementation.
   - Continue outpatient regimen
   # Access: Currently has left sided PICC in place with dual lumen.
   # FEN: Patient is on TPN as an outpatient due to her malnutrition.
   - Continue TPN as per nutrition recs
   - Clear liquid diet
   - ISS given TPN and steroids
   - Follow amylase, lipase and LFTs on TPN
   # PPX: Pneumoboots, no heparin given GI bleed, not on ppi as outpatient
   but given duodenitis on EGD, will start protonix q24H
   ICU Care
   Nutrition:
   TPN without Lipids - [**2141-3-24**] 06:17 PM 66.[**Telephone/Fax (3) 553**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2141-3-23**] 10:00 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: ppi
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: FULL CODE
   Disposition: ICU until BP improves ; then can call out to floor

2141-03-25 09:18:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   -Patient with colonscopy completed
   -Patient with hypertention over past 24 hours in setting of npo status
   and baseline HTN
   -4 units PRBC prior to transfer and none further after admission to ICU
   24 Hour Events:
 COLONOSCOPY - At [**2141-3-24**] 05:01 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Remicade (Intraven.) (Infliximab)
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-3-24**] 06:16 PM
   Metronidazole - [**2141-3-25**] 08:01 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-3-24**] 10:00 AM
   Midazolam (Versed) - [**2141-3-24**] 04:36 PM
   Fentanyl - [**2141-3-24**] 04:36 PM
   Hydralazine - [**2141-3-25**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Gastrointestinal: Abdominal pain, Diarrhea
   Flowsheet Data as of  [**2141-3-25**] 09:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 78 (70 - 120) bpm
   BP: 155/65(85) {122/61(75) - 197/96(116)} mmHg
   RR: 12 (7 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,107 mL
                                                                    994 mL
   PO:
                                                                  4,000 mL
             TF:
   IVF:
                                                                    527 mL
                                                                    391 mL
   Blood products:
                                                                    395 mL
   Total out:
                                                                  4,330 mL
                                                                    550 mL
   Urine:
                                                                  1,730 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,777 mL
                                                                    444 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   13.0 g/dL
   88 K/uL
   206 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.8 mEq/L
   45 mg/dL
   109 mEq/L
   139 mEq/L
   35.8 %
   11.7 K/uL
        [image002.jpg]
                             [**2141-3-24**]  03:00 AM
                             [**2141-3-24**]  09:46 AM
                             [**2141-3-24**]  04:40 PM
                             [**2141-3-25**]  01:06 AM
                             [**2141-3-25**]  04:44 AM
   WBC
   14.1
   11.7
   Hct
   38.0
   42.9
   39.4
   37.3
   35.8
   Plt
   90
   88
   Cr
   0.9
   0.6
   Glucose
   207
   206
   Other labs: PT / PTT / INR:11.1/25.3/0.9, ALT / AST:36/26, Alk Phos / T
   Bili:35/0.3, Amylase / Lipase:95/136, Albumin:2.1 g/dL, LDH:466 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   61 yo female admit with "blood diarrhea" in the setting of difficult to
   control Crohn's disease.  She has had continued bleeding with
   evaluation showing source at IC junction with bleeding scan but
   negative angio and colonscopy to try to identify treatable new acute
   source of bleeding.  She has had diffuse ulcerative disease as perhaps
   most likely explanation--encouraging is the she has had no further
   acute bleeding but does retain continued slow blood loss.
   GI Bleed-
   -Patient without bowel movements since colonscopy
   -Will follow HCT q 6 hours today to assure stability
   -PPI in place
   -Will continue ABX for acute course
   Crohn's Disease-
   -Complex management driven by GI team
   -Solumedrol
   -MTX
   -Fumara all to continue and will restart po medications now
   Hypertension-
   -Will need to return outpatient medications
   -IV as needed
   DVT
right upper extremity
   -PICC discontinued
   -Follow exam
   Hypothyroidism-
   -will move to po dosing of synthroid
   ICU Care
   Nutrition:
   TPN without Lipids - [**2141-3-24**] 06:17 PM 66.[**Telephone/Fax (3) 553**] mL/hour,
   MCTG
s to continue
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2141-3-23**] 10:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes

2141-03-26 07:02:00 Physician Resident Progress Note
Chief Complaint: 61 yo F with refractory Crohn's disease p/w acute
   blood loss anemia [**12-31**] GI bleed
   24 Hour Events:
   -Hct continued to trend down, 35.8 --> 32.8, repeat stable 35.5 this
   morning
   -Not restarted on mesalamine as will not benefit patient in acute
   setting
   -Persistently hypertensive 160s-170s despite restarting home atenolol
   and moexipril
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Remicade (Intraven.) (Infliximab)
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-3-25**] 07:58 PM
   Atovaquone - [**2141-3-25**] 08:00 PM
   Metronidazole - [**2141-3-25**] 11:30 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-26**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.3
C (97.4
   HR: 63 (59 - 81) bpm
   BP: 174/80(103) {149/62(85) - 189/102(115)} mmHg
   RR: 16 (10 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,455 mL
                                                                    517 mL
   PO:
             TF:
   IVF:
                                                                    840 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                  1,100 mL
   Urine:
                                                                  1,650 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    805 mL
                                                                   -583 mL
   Respiratory support
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: No(t) No acute distress
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended,
   Well-healed right sided verticle and horizontal scars from prior
   surgeries
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Tone: Normal
   Labs / Radiology
   98 K/uL
   12.4 g/dL
   154 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.6 mEq/L
   40 mg/dL
   108 mEq/L
   138 mEq/L
   35.5 %
   15.1 K/uL
        [image002.jpg]
                             [**2141-3-24**]  03:00 AM
                             [**2141-3-24**]  09:46 AM
                             [**2141-3-24**]  04:40 PM
                             [**2141-3-25**]  01:06 AM
                             [**2141-3-25**]  04:44 AM
                             [**2141-3-25**]  04:02 PM
                             [**2141-3-25**]  10:37 PM
                             [**2141-3-26**]  04:44 AM
   WBC
   14.1
   11.7
   15.1
   Hct
   38.0
   42.9
   39.4
   37.3
   35.8
   32.8
   31.9
   35.5
   Plt
   90
   88
   98
   Cr
   0.9
   0.6
   0.7
   Glucose
   [**Telephone/Fax (3) 555**]
   Other labs: PT / PTT / INR:11.1/25.3/0.9, ALT / AST:36/26, Alk Phos / T
   Bili:35/0.3, Amylase / Lipase:95/136, Albumin:2.1 g/dL, LDH:466 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Imaging: No new imaging
   Microbiology: No new micro
   Assessment and Plan
   61F w/ ongoing Crohn's flare refractory to steroids, undergoing Humira
   induction, with RUE DVT and persistent bloody diarrhea draining through
   rectovaginal fistula, EGD/[**Last Name (un) **] w/ TI disease w/o source of GIB,
   bleeding scan pos at ileo-cecal area but angio procedure negative with
   repeat c-scope which did not show any active sites of bleeding
   # Acute blood loss anemia: Crohn's disease wtih intermittant
   melena/hematochezia.  EGD/[**Last Name (un) **] unrevealing, tagged red scan positive
   for bleed at ileo-cecal junction but angiogram negative for active
   bleed.
   - Repeated c-scope on [**3-24**] without any active source of bleeding
   found.  No melena since procedure.  Gi recommended sending the stools
   for mycobacteria as that can cause diarrhea/melena
   - Q6 HCT drawn; stable at this time.  Patient is still hemodynamically
   stable, actually is hypertensive despite slow HCT drop
   - Repeat HCT this PM; d/w GI whether any other studies necessary; seems
   to be a fairly slow bleed.  may need capsule study to evaluate for
   small bowel AVMs or other source of bleeding
   - Will transfuse to a goal of >28 or HD instability
   # Crohn's disease: Patient is currently on Solumedrol 20 IV Q8H. No
   further imaging studies for now per GI.
   - Patient restarted on home PO meds including supplements.
   - Given a dose of MTX per GI.  Also recently started on Humira- got 2
   doses.
   - Continue TPN given short gut
   # DVT: Patient found to have RUE clot at the site of her prior PICC
   line. Unable to anticoagulate patient at this time given her active GI
   bleed.
   - Heat packs to site, elevation of arm
   - Continue to monitor
   - Will discuss anticoagulation after resolution of bleed, though this
   will likely be an ongoing problem for the patient given her severe IBD.
   # Hypothyroidism: Patient is on levothyroxine 112mcg daily as an
   outpatient.
   - Restarted on PO levothyroxine yesterday as patient is tolerating POs.
   # Hypertension: On Moexipril and Atenolol as outpatient.  Were holding
   anti-hypertensives in the setting of large GI bleed. Restarted
   antihypertensives yesterday morning as patient was persistently
   hypertensive.
   - Continue to monitor BP
   - Can uptitrate PO meds today if necessary
   # Osteoporosis: On Alendronate q Sunday and vitamin D/Calcium
   supplementation.
   - Continue outpatient regimen
   ICU Care
   Nutrition:
   TPN without Lipids - [**2141-3-25**] 06:00 PM 66.[**Telephone/Fax (3) 553**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2141-3-23**] 10:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: